US04117130
A 15 g. portion of m-(1,4,5,6-tetrahydro-4-methyl-6-oxo-3-pyridazinyl)benzonitrile [Journal of Medicinal Chemistry 17, 281 (1974)] is suspended in 75 ml. of glacial acetic acid with stirring at steam bath temperature. Then 3.75 ml. of bromine in 25 ml. of acetic acid is added dropwise over a 15 minute period. The reaction mixture is heated on a steam bath for an additional 30 minutes then is poured onto crushed ice. The resulting solid is collected by filtration, copiously washed with water and dried to afford m-(1,6-dihydro-4-methyl-6-oxo-3-pyridazinyl)benzonitrile as a cream colored solid.

reactant | m-(1,4,5,6-tetrahydro-4-methyl-6-oxo-3-pyridazinyl)benzonitrile | CC1C(=NNC(C1)=O)C=1C=C(C#N)C=CC1 | C12H11N3O
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | m-(1,6-dihydro-4-methyl-6-oxo-3-pyridazinyl)benzonitrile | CC=1C(=NNC(C1)=O)C=1C=C(C#N)C=CC1 | C12H9N3O
